Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
___:  ORIF Right femur periprosthetic fracture
 
History of Present Illness:
Ms. ___ is an ___ year old female who had a trip and fall with 
her walker.  She was taken to ___ and found 
to have a right periprosthetic femur fracture.  She was then 
transferred to the ___ for further evaluation and care.
 
Past Medical History:
- s/p Right total hip replacement ___
- s/p Left total hip replacement
- h/o "colitis", possibly current, per the BID-N d/c summary
- Gout
- h/o herpes zoster
- hypertension 
- hypercholesterolemia
- GERD
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Upon admission

Alert and oriented
Cardiac:  Regular rate rhythm
Chest:  Lungs clear bilaterally
Abdomen:  Soft non-tender non-distended
Extremities:  RLE, shortened, externally rotated, skin intact, 
TTP over proximal thigh, +edema, NVI distally.
 
Pertinent Results:
___ 06:30AM BLOOD Hct-35.9*
___ 01:22PM BLOOD Hct-39.7#
___ 05:10AM BLOOD WBC-7.0 RBC-2.99* Hgb-9.2* Hct-27.1* 
MCV-91 MCH-30.7 MCHC-33.9 RDW-16.0* Plt ___
___ 02:55AM BLOOD WBC-8.6 RBC-3.11* Hgb-9.2* Hct-29.4* 
MCV-95# MCH-29.6 MCHC-31.3 RDW-14.6 Plt ___
___ 09:05AM BLOOD ___
___ 04:20PM BLOOD ___
___ 04:25AM BLOOD ___ PTT-25.9 ___
___ 02:55AM BLOOD ___ PTT-26.0 ___
___ 05:10AM BLOOD Glucose-96 UreaN-17 Creat-1.0 Na-133 
K-3.8 Cl-108 HCO3-18* AnGap-11
 
Brief Hospital Course:
Ms. ___ presented to the ___ on ___ via transfer from 
___ with a right periprosthetic femur 
fracture.  She was evaluated by the orthopaedic surgery service, 
admitted, consented, and prepped for surgery.  She was noted to 
have a urinary tract infection and was started on a course of 
Cipro.  Later that day she was taken to the operating room and 
underwent an ORIF of her right periprosthetic femur fracture.  
She tolerated the procedure well, was extubated, transferred to 
the recovery room, and then to the floor.  She was transfused 
with 1 unit of packed red blood cells due to acute blood loss 
anemia.  On the floor she was seen by physical therapy to 
improve her strength and mobility.  On ___ she was transfused 
with 2 units of packed red blood cells due to acute blood loss 
anemia.  The rest of her hospital stay was uneventful with her 
lab data and vital signs within normal limits and her pain 
controlled.  On ___ and ___ she expressed signs of depression 
and feelings of hopelessness and anhedonia.  She denies any plan 
to kill herself or hurt others.  She was started on a low dose 
of celexa (10mg) daily in hopes to help with her feelings of 
depression.  She is being discharged today in stable condition.  
On coumadin for 4 weeks after surgery with INR goal 1.5-2.  If 
discharged from rehab prior to 4 week course please have PCP 
manage INR/Coumadin.
 
Medications on Admission:
ASA 81', MVI, Ca, omeprazole 20'', metoprolol 12.5''', 
amitriptyline 50 qhs, mirtazapine 15', betoptic eye drop 5''. 
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO TID (3 
times a day): Hold for HR less than 60 or SBP less than 110.  
5. Betaxolol 0.25 % Drops, Suspension Sig: One (1) Drop 
Ophthalmic BID (2 times a day).  
6. Amitriptyline 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
7. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
8. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. Morphine 15 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
10. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours).  
11. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
12. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

13. Bisacodyl 10 mg Suppository Sig: One (1) suppository Rectal 
at bedtime as needed for constipation.  
14. Coumadin 2 mg Tablet Sig: One (1) Tablet PO once tonight for 
4 weeks: Goal INR ___
On coumadin for a total of 4 weeks after surgery.  
15. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours) for 10 days.  
16. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for Anxiety.  
17. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
18. Warfarin 2 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
Please keep INR at 1.3-1.7.  
19. Keflex ___ mg Capsule Sig: One (1) Capsule PO four times a 
day for 10 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right femur periprosthetic fracture
Acute blood loss anemia
Urinary tract infection
 
Discharge Condition:
Stable
 
Discharge Instructions:
Continue to be touchdown weight bearing on your right leg

Continue your coumadin for a total of 4 weeks after surgery, 
goal INR is ___

Please take all medication as prescribed

If you have any increased redness, drainage, or swelling, or if 
you have a temperature greater than 101.5, pleaes call the 
office or come to the emergency department.
Physical Therapy:
Activity:  Activity as tolerated
 Right lower extremity:  Touchdown weight bearing

Treatment Frequency:
Staples/sutures out 14 days after surgery

Dry sterile dressing daily or as needed for drainage or comfort
 
Followup Instructions:
___